US07135492B2
Oxalyl chloride (8.4 g; 0.066 mol) was added dropwise to the stirring solution of N-(2,6-dimethyl phenyl)-N′-methylthiourea (6.4 g; 0.033 mol) in methylene chloride (100 mL). The mixture was heated at reflux for 2 hours then evaporated to dryness. Ethanol (100 mL) was added and the mixture was heated at reflux for 1 hour. The solvent was concentrated. The precipitated solid was collected by filtration and dried to give 5.4 g of 1-(2,6-Dimethylphenyl)-3-methyl-2-thioxo-4,5-imidazolidinedione, m.p. 144–146° C. Mass spectrum; (El, M.+) m/z248. 1H-NMR (DMSO-d6; 300 MHz): δ 7.30 (t, 1H), 7.18 (d, 2H), 3.33 (s, 3H), and 2.08 ppm (s, 6H).

reactant | Oxalyl chloride | 0.066 mol, 8.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(2,6-dimethyl phenyl)-N′-methylthiourea | 0.033 mol, 6.4 g | CC1=C(C(=CC=C1)C)NC(=S)NC | C10H14N2S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,6-Dimethylphenyl)-3-methyl-2-thioxo-4,5-imidazolidinedione | 5.4 g | CC1=C(C(=CC=C1)C)N1C(N(C(C1=O)=O)C)=S | C12H12N2O2S
